US05017585
(+-)-trans-3-(3,4-methylenedioxyphenoxymethyl)-1-pentyl-4-(4-pentyloxyphenyl)piperidine hydrochloride
was prepared by refluxing 4-(4-hydroxyphenyl)-3-(3,4-methylenedioxyphenoxymethyl)piperidine hydrochloride (0.35 g) with 1-bromopentane (1.8 ml) and K2CO3 (1 g) in abs. ethanol (25 ml) for 2 h. The rinse-up procedure described in example 1 gave the title compound. M.p. 148.2° C.

reactant | 4-(4-hydroxyphenyl)-3-(3,4-methylenedioxyphenoxymethyl)piperidine hydrochloride | 0.35 g | Cl.OC1=CC=C(C=C1)C1C(CNCC1)COC1=CC2=C(C=C1)OCO2
reactant | 1-bromopentane | 1.8 ml | BrCCCCC | C5H11Br
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (+-)-trans-3-(3,4-methylenedioxyphenoxymethyl)-1-pentyl-4-(4-pentyloxyphenyl)piperidine hydrochloride | Cl.C1OC=2C=C(OC[C@@H]3CN(CC[C@H]3C3=CC=C(C=C3)OCCCCC)CCCCC)C=CC2O1 | InChI=1S/C29H41NO4.ClH/c1-3-5-7-16-30-17-15-27(23-9-11-25(12-10-23)31-18-8-6-4-2)24(20-30)21-32-26-13-14-28-29(19-26)34-22-33-28;/h9-14,19,24,27H,3-8,15-18,20-22H2,1-2H3;1H/t24-,27-;/m0./s1
